* =============================================================================
* Full-Custom Controlled Add / Subtract (CAS) 1-Bit Slice Cell
* =============================================================================
.subckt CAS_CELL A B CIN CTRL SUM COUT VDD VSS
* Control and input inverters
XINV_CTRL CTRL CTRL_B VDD VSS SCL180_INV_1X
XINV_B B B_B VDD VSS SCL180_INV_1X
XINV_A A A_B VDD VSS SCL180_INV_1X
XINV_C CIN CIN_B VDD VSS SCL180_INV_1X

* B_MOD = B ^ CTRL
XXOR_B B B_B CTRL CTRL_B B_MOD B_MOD_B VDD VSS TG_XOR2

* SUM = A ^ B_MOD ^ CIN
XXOR_AB A A_B B_MOD B_MOD_B AB AB_B VDD VSS TG_XOR2
XXOR_S  AB AB_B CIN CIN_B SUM SUM_B VDD VSS TG_XOR2

* COUT = AB ? CIN : A (TG MUX)
XMUX_COUT CIN A AB AB_B COUT VDD VSS TG_MUX2
.ends CAS_CELL

.subckt SCL180_INV_1X IN OUT VDD VSS
XM1 OUT IN VDD VDD p18.1 W=1.0u L=0.18u
XM2 OUT IN VSS VSS n18.1 W=0.5u L=0.18u
.ends SCL180_INV_1X

.subckt TG_XOR2 A A_B B B_B OUT OUT_B VDD VSS
XM1 B   A_B OUT VDD p18.1 W=0.8u L=0.18u
XM2 B   A   OUT VSS n18.1 W=0.5u L=0.18u
XM3 B_B A   OUT VDD p18.1 W=0.8u L=0.18u
XM4 B_B A_B OUT VSS n18.1 W=0.5u L=0.18u
XINVO OUT OUT_B VDD VSS SCL180_INV_1X
.ends TG_XOR2

.subckt TG_MUX2 A B SEL SEL_B OUT VDD VSS
XM1 A SEL_B OUT VDD p18.1 W=0.8u L=0.18u
XM2 A SEL   OUT VSS n18.1 W=0.5u L=0.18u
XM3 B SEL   OUT VDD p18.1 W=0.8u L=0.18u
XM4 B SEL_B OUT VSS n18.1 W=0.5u L=0.18u
.ends TG_MUX2
